US04940713
A solution of 3-(2-acetylamino-4-diacetylamino-1,6-dihydro-6-oxo-5-pyrimidinyl)propionaldehyde diethyl acetal (30.0 g, 78.5 mmol) in distilled water (600 ml) was stirred at 53° C. for 3.5 hours and spin evaporated in vacuo at 45° C. The residue was dissolved in dichloromethane (750 ml), washed with brine (50 ml), dried (MgSO4), and spin evaporated in vacuo to a dry solid. Recrystallization from acetone gave 16.23 g (67% of theory) of 3-(2-acetylamino-4-diacetylamino-1,6-dihydro-6-oxo-5-pyrimidinyl)propionaldehyde, mp 164°-168° C., which was identical to that prepared by Method 1.

reactant | 3-(2-acetylamino-4-diacetylamino-1,6-dihydro-6-oxo-5-pyrimidinyl)propionaldehyde diethyl acetal | 78.5 mmol, 30.0 g | C(C)OC(CCC1=C(N=C(NC1=O)NC(C)=O)N(C(C)=O)C(C)=O)OCC | C17H26N4O6
solvent | water | 600 ml | O | H2O
product | 3-(2-acetylamino-4-diacetylamino-1,6-dihydro-6-oxo-5-pyrimidinyl)propionaldehyde | 16.23 g, 67% | C(C)(=O)NC=1NC(C(=C(N1)N(C(C)=O)C(C)=O)CCC=O)=O | C13H16N4O5
